US08304546B2
2N hydrochloric acid (6.3 ml) was added to an ethanol solution (20 ml) of ethyl (5-fluoro-4-oxo-8-propoxy-3-{4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-4H-quinolin-1-yl)acetate (840 mg, 1.59 mmol) and stirred at 50° C. for 2 hours. The resulting mixture was cooled to room temperature and then concentrated under reduced pressure. Ethyl acetate and water were added to the residue, followed by separation. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=30:1→15:1). The purified product was concentrated under reduced pressure, giving a pale yellow oily substance of ethyl{5-fluoro-3-[4-(2-hydroxyethoxy)phenyl]-4-oxo-8-propoxy-4H-quinolin-1-yl}acetate (627 mg, yield: 89%).

reactant | hydrochloric acid | 2N, 6.3 ml | Cl | ClH
reactant | ethyl (5-fluoro-4-oxo-8-propoxy-3-{4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-4H-quinolin-1-yl)acetate | 1.59 mmol, 840 mg | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(=O)OCC)C1=CC=C(C=C1)OCCOC1OCCCC1)=O | C29H34FNO7
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl{5-fluoro-3-[4-(2-hydroxyethoxy)phenyl]-4-oxo-8-propoxy-4H-quinolin-1-yl}acetate | 627 mg, yield: 89% | C(C)OC(CN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OCCO)=O | C24H26FNO6
